US06355663B1
To a solution containing 2,4-heptanedione (10.0 g, 78.0 mmol) in dimethyl sulfoxide (100 ml) were added dropwise under ice-cooling an 85% solution containing potassium hydroxide (10.3 g, 156.0 mmol) in water (10 ml) and carbon disulfide (5.9 g, 78.0 mmol) in turn, and then the mixture was stirred at that temperature for 30 minutes. Subsequently, a solution containing chloroacetonitrile (5.3 g, 70.2 mmol) in dimethyl sulfoxide (10 ml) was added dropwise under ice-cooling over 5 minutes and the mixture was stirred at that temperature for 20 minutes. Potassium carbonate (10.8 g, 78.0 mmol) and methyl iodide (12.2 g, 85.8 mmol) were then added and the mixture was stirred further for 30 minutes. The reaction solution was extracted 10 with ethyl acetate, and the organic layer was washed (with water and aqueous saturated sodium chloride, in turn), dried (over anhydrous magnesium sulfate), filtered and concentrated under reduced pressure. The residue thus obtained was purified by silica gel column chromatography (developing solvent: n-hexane/ethyl acetate=10:1) and the crystals thus obtained were washed with n-hexane to afford 3-ethyl-5-methylthio-4-propionylthiophene-2-carbonitrile (14.8 g, 88%) as colorless prisms.

reactant | 2,4-heptanedione | 78.0 mmol, 10.0 g | CC(CC(CCC)=O)=O | C7H12O2
reactant | potassium hydroxide | 156.0 mmol, 10.3 g | [OH-].[K+]
reactant | carbon disulfide | 78.0 mmol, 5.9 g | C(=S)=S | CS2
reactant | chloroacetonitrile | 70.2 mmol, 5.3 g | ClCC#N | C2H2ClN
reactant | Potassium carbonate | 78.0 mmol, 10.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 85.8 mmol, 12.2 g | CI | CH3I
solvent | dimethyl sulfoxide | 100 ml | CS(=O)C | C2H6OS
solvent | water | 10 ml | O | H2O
solvent | dimethyl sulfoxide | 10 ml | CS(=O)C | C2H6OS
product | 3-ethyl-5-methylthio-4-propionylthiophene-2-carbonitrile | 14.8 g, 88% | C(C)C1=C(SC(=C1C(CC)=O)SC)C#N | C11H13NOS2
